US04695573
9-(3-Methoxybenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
3,4-Dihydro-9-(3-methoxybenzylamino)acridin-1(2H)-one (4.0 g) was dissolved in 75 ml of dry THF, the solution was chilled with ice-water, and 1M lithium aluminum hydride (6.5 ml) was added dropwise through a syringe. After 30 minutes TLC showed that the reaction was complete, so the reaction was quenched by the successive addition of 0.4 ml of water, 0.4 ml of 15% sodium hydroxide, and 1.2 ml of water. The inorganic salts were filtered off and the organic phase was evaporated to an oil. Trituration with ether gave a solid that was filtered off and then recrystallized from ether-pentane to give 2.2 g of analytically pure product, mp 123°-125° C.

reactant | 3,4-Dihydro-9-(3-methoxybenzylamino)acridin-1(2H)-one | 4.0 g | COC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC1 | C21H20N2O2
reactant | lithium aluminum hydride | 1M, 6.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 9-(3-Methoxybenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | COC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC1 | C21H22N2O2
